US04652574
5 g of 3-chloro-6-ethylthio-2-pyridinol and 3.7 g of methanesulfonyl chloride were dissolved in 50 ml of methylene chloride, followed by stirring. 4 g of triethylamine was added dropwise to the solution at 10° C. or below and the obtained mixture was allowed to stand to lower the temperature to room temperature. The mixture was heated to 40° C. and stirred for 2 hours. 50 ml of chilled water was poured into the reaction mixture to separate the methylene chloride layer. The water layer was further extracted with 50 ml of methylene chloride. The obtained methylene chloride layer was combined with the above methylene chloride layer. The combined layer was washed with water and distilled to remove the solvent. The obtained residue was purified by silica gel column chromatography (with toluene and n-hexane) to obtain 6.6 g of objective 3-chloro-6-ethylthio-2-pyridyl methanesulfonate as a colorless crystal (yield: 93.4%). m.p. 40° to 41° C.

reactant | 3-chloro-6-ethylthio-2-pyridinol | 5 g | ClC=1C(=NC(=CC1)SCC)O | C7H8ClNOS
reactant | methanesulfonyl chloride | 3.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 4 g | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-chloro-6-ethylthio-2-pyridyl methanesulfonate | 6.6 g, yield: 93.4% | CS(=O)(=O)OC1=NC(=CC=C1Cl)SCC | C8H10ClNO3S2
